Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dysuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o M PMH significant for BPH, H.pylori s/p recent recent 
treatment metronidazole/amoxicillin, HLD who is admitted from 
outpatient setting given concern for prostatitis.  
The patient reported for the past ___ weeks he has had 
difficulty urinating as he describes as dysuria and needing to 
"rush to the bathroom." This has progressively worsened such 
that he has had everytime he urinates he has dysuria associated 
with change in color of urine such that it has become more 
cloudy. The patient reports that a couple of days ago, he 
developed tactile fevers and chills associated with general 
malaise. The patient also reports that he developed a couple of 
days ago watery stools approx ___ daily with melena, BRBPR. He 
denies any abdominal pain, chest pain, SOB, N/V. He is sexually 
active only with his wife.  
The patient was seen as an episodic visit on the day of 
admission where given his leukocytosis to 17, it was concerning 
for development of early sepsis and recommended he be sent to 
the ED.  
 
On arrival to the ED, initial vitals were: 97.5 94 142/61 16 95% 
Prior to the ED, the patient's labs were notable for 
leukocytosis to 17.5 with left shift PMNs 83.4, otherwise Nl 
CBC. Chem 7 was unremarkable. PSA was 15.4 from 1.6 in ___. UA 
was grossly positive. urine and cdiff were pending. Blood 
cultures were drawn.  
The patient received CTX, ondansetron, 1L NS in the ED.  
Vital Signs prior to transfer:99.2 81 119/76 18 96% RA  
 
Currently, patient reports fevers, chills.  
 
ROS: per HPI, denies , night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, constipation, 
BRBPR, melena, hematochezia, hematuria.
 
Past Medical History:
___ esophages  
BPH  
Gastritis  
H.pylori  
HLD 
 
Social History:
___
Family History:
Mom died from CAD. 
 
Physical Exam:
ADMISSION EXAM:
VS - Temp 98.7F BP141/70 HR87 R18 O2-sat 100% RA  
General: NAD, AOx3  
HEENT: no scleral icterus, OP clear.  
Neck: supple,  
CV: RRR, nl S1 S2, no r/m/g appreciated.  
Lungs: CTAB, no crackles, wheezing, rhonchi  
Abdomen: soft, NT/ND. NABS  
Ext: WWP, +2 pulses. No pedal edema.  
Neuro: A+Ox3, attentive. Memory intact.  
Skin: no rashes.  
 
DISCHARGE EXAM:
VS - 98.8 (99.4)121/74 88 18 95RA  
General: NAD, AOx3  
HEENT: no scleral icterus  
Neck: supple,  
CV: RRR, nl S1 S2, no r/m/g appreciated.  
Lungs: CTAB, no crackles, wheezing, rhonchi  
Abdomen: soft, NT/ND. NABS  
Ext: WWP, +2 pulses. No pedal edema.  

 
Pertinent Results:
ADMISSION LABS:
___ 11:39AM BLOOD WBC-17.5*# RBC-5.28 Hgb-16.3 Hct-48.5 
MCV-92 MCH-31.0 MCHC-33.7 RDW-13.0 Plt ___
___ 11:39AM BLOOD Neuts-83.4* Lymphs-8.2* Monos-7.5 Eos-0.5 
Baso-0.4
___ 11:39AM BLOOD UreaN-11 Creat-0.8 Na-136 K-4.2 Cl-98 
HCO3-28 AnGap-14
___ 11:39AM BLOOD PSA-15.2*

MICRO:
==========
   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         PRESUMPTIVE IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--     4 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

BLOOD CULTURES: NGTD

DISCHARGE LABS:
==================
___ 05:25AM BLOOD WBC-6.2 RBC-5.26 Hgb-16.3 Hct-49.1 MCV-93 
MCH-31.0 MCHC-33.2 RDW-13.0 Plt ___
___ 05:25AM BLOOD Glucose-121* UreaN-12 Creat-0.8 Na-140 
K-4.3 Cl-101 HCO3-27 AnGap-___ y/o M PMH significant for BPH, H.pylori s/p recent recent 
treatment metronidazole/amoxicillin, HLD who is admitted from 
outpatient for acute prostatitis.  

ACTIVE ISSUES:
==================
# Acute Prostatitis: Symptoms along with acutely elevated 
PSA/WBC is highly concerning for protatitis. Rectal as 
outpatient showed some moderate vague discomfort, but no sharp 
pains. Currently meets ___ SIRS criteria (WBC). The patient 
received a dose of ceftriaxone in the emergency room, 
transitioned to ciprofloxacin as it has better prostatic 
penetration for a 6 week duration of antibiotics. Urine cultures 
E.coli sensitive to cipro. Blood cultures showed NGTD. Given 
rapid improvement, it seems unlikely that prostatic ultrasound 
was needed to rule out prostatic abscess. Patient reported being 
in a monogamous relationship with his wife and given rapid 
clinical improvement and urine culture results, seemed unlikely 
to be secondary to gonorrhea/chlmydia. 

# Diarrhea: Most likely antibiotic side effect. Initially 
concerning for C.diff especially given leukocytosis and having 
finished recent antibiotic course for H.pylori, so the patient 
was started on metronidazole. When the C.diff PCR was negative, 
metronidazole was discontinued.

# Hemoptysis: The day of discharge the patient had an episode of 
hemoptysis that was previously worked up with CT scan that 
showed thickening of the tracheal wall, focal up to 4 mm is 
noted and might potentially correspond in conjunction with 
tortuous brachiocephalic artery to the indentation seen on the 
trachea.  
Reassessment in six months in conjunction with the pulmonary 
nodules is 
recommended for the assessment of stability. 

CHRONIC ISSUES:
===================
# HLD: He was continued on home atorvastatin.

# Gastritis: He was continued on home omeprazole.  

# BPH:  He was continued on home tamsulosin.

TRANSITIONAL ISSUES:
=======================
# CODE STATUS: Full (confirmed)  
# CONTACT: Wife ___ ___ 
# 6 week duration of ciprofloxacin. 
# Follow-up chest CT in 6 months given radiology recommendation 
for pulmonary nodules.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 40 mg PO DAILY 
2. Tamsulosin 0.4 mg PO HS 
3. Atorvastatin 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 10 mg PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Tamsulosin 0.4 mg PO HS 
5. Ciprofloxacin HCl 500 mg PO Q12H 
Total 6 weeks of treatment. 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth twice a day Disp 
#*70 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Prostatitis, Diarhea
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you were having an infection in 
your prostate. This most like secondary a bacterial infection in 
your prostate called prostatitis. The treatment for this is 
antibiotics called ciprofloxacin 500mg twice a day for 6 weeks. 
You already have a one week supply from ___. You can use the 
rest of those pills and then continue with the new prescription. 
Please take all of the antibiotics unless instructed by your 
PCP. 

You were also having diarrhea. Initially we were worried about 
an infection in your stool called c.diff. However, the test for 
this was negative and it was most likely secondary to antibiotic 
side effect. Please continue eating yogurt to help prevent 
symptoms.

We wish you a speedy recovery.
YOUR ___ MEDICAL TEAM
 
Followup Instructions:
___